US07754744B2
Step 2: N-[3-(Piperidin-4-ylamino)-phenyl]-acetamide dihydrochloride (Intermediate B1)
A solution of 4-(3-acetylamino-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.21 g, 0.63 mmol) in 4 M HCl in dioxane (10 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 234.4 [M+H]+.

reactant | 4-(3-acetylamino-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.63 mmol, 0.21 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC(=CC=C1)NC(C)=O | C18H27N3O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-[3-(Piperidin-4-ylamino)-phenyl]-acetamide dihydrochloride | Cl.Cl.N1CCC(CC1)NC=1C=C(C=CC1)NC(C)=O | InChI=1S/C13H19N3O.2ClH/c1-10(17)15-12-3-2-4-13(9-12)16-11-5-7-14-8-6-11;;/h2-4,9,11,14,16H,5-8H2,1H3,(H,15,17);2*1H
